US08258134B2
A solution of 3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-2-(6-oxo-4-phenylsulfanyl-6H-pyridazin-1-yl)-propionamide (30 mg, 0.06 mmol) in tetrahydrofuran (1 mL) was treated with m-chloroperbenzoic acid (10.8 mg, 0.06 mmol). In a separate flask, a solution of 3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-2-(6-oxo-4-phenylsulfanyl-6H-pyridazin-1-yl)-propionamide (30 mg, 0.06 mmol) in tetrahydrofuran (1 mL) was treated with m-chloroperbenzoic acid (21.5 mg, 0.12 mmol). Both reactions were stirred at 25° C. for 3 nights. At this time, each reaction was individually concentrated in vacuo. Two separate HPLC purifications (30-100% acetonitrile/water, C18 Pursuit Agilient, 20×150mm, 30 ml/min) were combined to afford 2-(4-benzenesulfinyl-6-oxo-6H-pyridazin-1-yl)-3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-propionamide (6.9 mg, 11%) as a white solid; ES+-HRMS m/e calcd for C25H31N5O4S [M+H+] 498.2170 found 498.2171. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.04 (2×s, 6H), 1.19-1.70 (m, 9H), 1.88-2.01 (m, 1H), 2.10-2.26 (m, 1H), 3.87 (s, 2H), 4.66 (s, 1H), 5.47 (dd, J=10.6, 4.2 Hz, 1H), 6.35 (d, J=2.4 Hz, 1H), 7.51 (dd, J=2.4 Hz, 1H), 7.54 (dd, J=2.4 Hz, 1H), 7.73 (t, J=7.5 Hz, 2H), 7.85 (t, J=7.5 Hz, 1H), 8.14 (d, J=7.5 Hz, 2H), 8.47 (d, J=2.4 Hz, 1H), 10.87 (s, 1H); and 2-(4-benzenesulfonyl-6-oxo-6H-pyridazin-1-yl)-3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-propionamide (14.9 mg, 23%) as a white solid; ES+-HRMS m/e calcd for C25H31N5O5S [M+H+] 514.2119 found 514.2121. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.04 (s, 3H), 1.04 (s, 3H), 1.20-1.70 (m, 9H), 1.86-2.02 (m, 1H), 2.07-2.31 (m, 1H), 3.87 (s, 2H), 4.66 (s, 1H), 5.47 (dd, J=10.4, 4.4 Hz, 1H), 6.35 (d, J=2.4 Hz, 1H), 7.51 (d, J=2.4 Hz, 1H), 7.52 (d, J=2.4 Hz, 1H), 7.73 (t, J=7.5 Hz, 2H), 7.85 (t, J=7.5 Hz, 1H), 8.14 (d, J=7.5 Hz, 2H), 8.47 (d, J=2.4 Hz, 1H), 10.87 (s, 1H).

reactant | 3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-2-(6-oxo-4-phenylsulfanyl-6H-pyridazin-1-yl)-propionamide | 0.06 mmol, 30 mg | C1(CCCC1)CC(C(=O)NC1=NN(C=C1)CC(C)(C)O)N1N=CC(=CC1=O)SC1=CC=CC=C1 | C25H31N5O3S
reactant | m-chloroperbenzoic acid | 0.06 mmol, 10.8 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-2-(6-oxo-4-phenylsulfanyl-6H-pyridazin-1-yl)-propionamide | 0.06 mmol, 30 mg | C1(CCCC1)CC(C(=O)NC1=NN(C=C1)CC(C)(C)O)N1N=CC(=CC1=O)SC1=CC=CC=C1 | C25H31N5O3S
reactant | m-chloroperbenzoic acid | 0.12 mmol, 21.5 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-(4-benzenesulfinyl-6-oxo-6H-pyridazin-1-yl)-3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-propionamide | 6.9 mg, 11% | C1(=CC=CC=C1)S(=O)C=1C=NN(C(C1)=O)C(C(=O)NC1=NN(C=C1)CC(C)(C)O)CC1CCCC1 | C25H31N5O4S
